US07592358B2
24.1c. 1-[2-(2-ethylphenoxy)ethyl]pyrrolidine
A solution of 0.41 g (1.38 mmol) of 1-[2-(4-bromo-2-vinylphenoxy)ethyl]pyrrolidine and 0.41 mL (2.94 mmol) of triethylamine in 25 mL of MeOH was degassed with argon and then combined with 35.5 mg (0.072 mmol) of bis(1,5-cyclooctadiene)dirhodium (I) dichloride and 57.1 mg (0.138 mmol) of 1,3-bis(diphenylphosphino)propane. The mixture was hydrogenated at RT and 3 bar hydrogen pressure. The reaction mixture was evaporated down in vacuo, and the residue was stirred with EtOAc, filtered, and the filtrate was evaporated down in vacuo. Yield: 0.26 g (87% of theoretical); C14H21NO (M=219.330); calc.: molpeak (M+H)+: 220; found: molpeak (M+H)+: 220.

reactant | 1-[2-(4-bromo-2-vinylphenoxy)ethyl]pyrrolidine | 1.38 mmol, 0.41 g | BrC1=CC(=C(OCCN2CCCC2)C=C1)C=C | C14H18BrNO
reactant | triethylamine | 2.94 mmol, 0.41 mL | C(C)N(CC)CC | C6H15N
reactant | 1,3-bis(diphenylphosphino)propane | 0.138 mmol, 57.1 mg | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 25 mL | CO | CH4O
catalyst | bis(1,5-cyclooctadiene)dirhodium (I) dichloride | 0.072 mmol, 35.5 mg | C1/C=C\CC/C=C\C1.C1/C=C\CC/C=C\C1.[Cl-].[Cl-].[Rh].[Rh]
product | 1-[2-(2-ethylphenoxy)ethyl]pyrrolidine | C(C)C1=C(OCCN2CCCC2)C=CC=C1 | C14H21NO
